US06476053B1
1-(Octyl-3-(octylamino)-pyrrolidine-2,5-dione
A mixture of N-octyl maleimide (0.01 M) prepared as described in Example 10 above, octylamine (0.01 M), triethylamine [catalytic, 0.1 equivalent] in acetonitrile (25 ml) was stirred for 24 hours at room temperature. Acetonitrile was removed under vacuum to leave a residual liquid product which was flash chromatographed (25% ethyl acetate in petroleum ether) to yield a white solid as the desired product.

reactant | N-octyl maleimide | 0.01 M | C(CCCCCCC)N1C(C=CC1=O)=O | C12H19NO2
reactant | octylamine | 0.01 M | C(CCCCCCC)N | C8H19N
reactant | triethylamine | 0.1 equivalent | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | Octyl-3-(octylamino)-pyrrolidine-2,5-dione | C(CCCCCCC)N1C(C(CC1=O)NCCCCCCCC)=O | C20H38N2O2
